US06043254
2.4 3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-phenylmethylidene}-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylidene}-2-indolinone and 1.5 equivalents of 4-(1H-imidazol-4-yl)-aniline in DMF followed by treatment with 1N sodium hydroxide solution in MeOH.

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylidene}-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 4-(1H-imidazol-4-yl)-aniline | 1.5 equivalents | N1C=NC(=C1)C1=CC=C(N)C=C1 | C9H9N3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{(Z)-1-[4-(1H-imidazol-4-yl)anilino]-1-phenylmethylidene}-2-indolinone | N1C=NC(=C1)C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=CC=C23)=O)C=C1 | C24H18N4O
